US09388105B2
Production of 3-butoxy-1,2-propanediol
16.6 g of an equimolar mixture of cis/trans-4-hydroxymethyl-2-propyl-1,3-dioxolane and 5-hydroxy-2-propyl-1,3-dioxane were combined with 100 g of glycerin (glycerol) in a 300 mL stainless steel autoclave. 2.0 g of 5% Pd/C catalyst were added and the autoclave was sealed. The reactor was heated to 200° C. The reactor was then brought to an operating pressure of 6.89 MPa and stirring commenced at 750 rpm. Pressure was maintained through the duration of the experiment. After 2 h, the autoclave was cooled and remaining gas vented. The autoclave was opened, its contents filtered, and the filtrate analyzed by gas chromatography (GC). 76% conversion of the acetal mixture was observed. Upon analysis of the results, the mixture was found to demonstrate 26.1% selectivity to 2-butoxy-1,3-propanediol, 71.7% 3-butoxy-1,2-propanediol, and the balance n-butanol.

reactant | trans-4-hydroxymethyl-2-propyl-1,3-dioxolane | OC[C@H]1O[C@@H](OC1)CCC | C7H14O3
reactant | 5-hydroxy-2-propyl-1,3-dioxane | OC1COC(OC1)CCC | C7H14O3
catalyst | Pd/C | 2.0 g | [Pd] | Pd
solvent | glycerin | 100 g | OCC(O)CO | C3H8O3
product | 3-butoxy-1,2-propanediol | C(CCC)OCC(CO)O | C7H16O3
